US05399580
(±)(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (500 mg, 1.13 mmol) was dissolved in dry N,N-dimethylformamide (4 mL) and heated to 95°-105° C. N-Iodosuccinimide (534 mg, 2.3 mmol as 95%) was added in portions over 5.5 hours. Volatiles were removed in vacuo and the residue chromatographed on silica gel. Elution with 10% ethyl acetate-hexanes followed by solidification from ethanol-water gave (±)(1R*,2S*,3S*,5S*)-3-(acetoxymethyl)-5-(5,6-dichloro-2-iodo-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate as a white powder (255 mg, 40%), m.p.152.5°-153° C.; 1H-NMR(DMSO-d6) δ: 8.32 and 7.94 (both s, 2,2 aromatic CH), 5.8-5.7 (m, 1, OCH), 5.4-5.3(m, 1, OCH), 5.2-5.0 (m, 1, NCH), 4.35-4.2 (m, 2, OCH2), 2.7-2.6 (m, 1, CH), 2.35-2.25 (m, 2, CH2), 2.11, 2.08, and 1.93 (all s, 3 each, 3 CH3); mass spectrum(CI) 569 (M+1).

reactant | (±)(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 1.13 mmol, 500 mg | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1N1C=NC2=C1C=C(C(=C2)Cl)Cl)COC(C)=O)OC(C)=O | C19H20Cl2N2O6
reactant | N-Iodosuccinimide | 2.3 mmol, 534 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (±)(1R*,2S*,3S*,5S*)-3-(acetoxymethyl)-5-(5,6-dichloro-2-iodo-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 255 mg, 40% | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1N1C(=NC2=C1C=C(C(=C2)Cl)Cl)I)COC(C)=O)OC(C)=O | C19H19Cl2IN2O6
